US07902252B2
2.89. Synthesis of 4-(3,4-dimethylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (71)
The title compound was synthesized from methyl 4-(3,4-dimethylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.050 g, 0.18 mmol) and lithium hydroxide (0.076 g, 1.8 mmol in 3 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (6 mL) was used. The resulting product was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-100% EtOAc/heptane) to afford the title compound: 27 mg, 56% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.07 (ddt, J=12.40, 8.55, 6.00, 6.00 Hz, 1H), 2.16-2.29 (m, 7H), 2.45-2.73 (m, 5H), 3.22 (quin, J=6.97 Hz, 1H), 6.30 (s, 1H), 6.84-6.92 (m, 1H), 6.95 (s, 1H), 7.01 (d, J=7.61 Hz, 1H); LCMS-MS (ESI−) 268.0 (M−H); HPLC (UV=100%), (ELSD=100%).

reactant | methyl 4-(3,4-dimethylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.18 mmol, 0.050 g | CC=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1C | C18H21NO2
reactant | lithium hydroxide | 1.8 mmol, 3 mL, 0.076 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-(3,4-dimethylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | CC=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1C | C17H19NO2
